US08754103B2
In a heavy-wall pressure tube was added 3-isopropyl-6-(4-(trifluoromethoxy)phenyl)-[1,2,4]triazolo[4,3-a]pyridin-8-amine prepared in 9A in toluene. To this suspension was added the acetic anhydride (0.1 mL) followed my triethylamine (0.1 mL). The mixture was heated in a 110 C oil bath for 12 hours. The reaction mixture was evaporated in vacuo and purified by preparative HPLC to afford N-(3-isopropyl-6-(4-(trifluoromethoxy)phenyl)-[1,2,4]triazolo[4,3-a]pyridin-8-yl)acetamide.

reactant | 3-isopropyl-6-(4-(trifluoromethoxy)phenyl)-[1,2,4]triazolo[4,3-a]pyridin-8-amine | C(C)(C)C1=NN=C2N1C=C(C=C2N)C2=CC=C(C=C2)OC(F)(F)F | C16H15F3N4O
reactant | acetic anhydride | 0.1 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.1 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(3-isopropyl-6-(4-(trifluoromethoxy)phenyl)-[1,2,4]triazolo[4,3-a]pyridin-8-yl)acetamide | C(C)(C)C1=NN=C2N1C=C(C=C2NC(C)=O)C2=CC=C(C=C2)OC(F)(F)F | C18H17F3N4O2
